US08629137B2
Step 2: 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one
Under a nitrogen atmosphere and while cooling with ice 220 mg (5.06 mmol) sodium hydride (55%, suspension in mineral oil) were added to 2.00 g (5.07 mmol) 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 10 mL DMF. The reaction mixture was stirred for 30 min at RT. Then 0.312 mL (5.06 mmol) iodomethane were added and the mixture was stirred overnight at RT. The reaction mixture was poured onto water and the precipitated product was suction filtered, washed with water and dried. The residue was stirred with diethyl ether, suction filtered and dried.

reactant | 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 5.07 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)Cl | C21H15ClN2O4
reactant | iodomethane | 5.06 mmol, 0.312 mL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C)Cl | C22H17ClN2O4
